US06235778B1
e) 3-[3-(2-Methoxyphenylsulfonyloxy)-5-methylphenoxy]propoxyamine
A mixture of sodium borohydride (45 mg, 1.1 mmol) and N-[3-[3-(2-methoxyphenylsulfonyloxy)-5-methylphenoxy]propoxy]phthalimide (113 mg, 0.23 numol, prepared in the preceding step) in 2-propanol (12 mL) and water (2 mL) was stirred overnight at ambient temperature. The reaction mixture was adjusted to pH 1 aqueous HCl (3.5 mL, 2N), and the solution was stirred at 50° C. for 2 h. The solution was cooled to 0° C. and adjusted to pH 12 with 2N NaOH. The solution was stirred at ambient temperature for 2 h, then 2-propanol was removed by rotary evaporation. The resulting mixture was extracted with ethyl acetate (2×30 mL). The combined organic extracts were washed with brine (40 mL), dried over Na2SO4, filtered, and evaporated to give the title compound (79 mg, 95%) as a colorless oil. 1 H-NMR (300 MHz, CDCl3) (7.82 (dd, 1H, J=7.9,1.7 Hz), 7.61 (ddd, 1H, J=8.4, 7.5, 1.8 Hz), 7.08 (dd, 1H, J=8.4, 0.8 Hz), 7.00 (ddd, 1H, J=8, 7.5, 1 Hz), 6.58 (br s, 1H), 6.50 (br s, 1H), 6.45 (t, 1H, J=2.1 Hz), 5.38 (br s, 2H), 4.02 (s, 3H), 3.92 (t, 2H, J=6.3 Hz), 3.79 (t, 2H, J=6.2 Hz), 2.23 (s, 3H), 2.00 (pentet, 2H, J=6.2 Hz). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C17H21NO6S: 390.1 (M+Na). Found: 390.1.

reactant | sodium borohydride | 1.1 mmol, 45 mg | [BH4-].[Na+]
reactant | N-[3-[3-(2-methoxyphenylsulfonyloxy)-5-methylphenoxy]propoxy]phthalimide | COC1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCCON2C(C=3C(C2=O)=CC=CC3)=O)C=C(C1)C | C25H23NO8S
reactant | HCl | 2N, 3.5 mL, pH 1 | Cl | ClH
reactant | NaOH | 2N | [OH-].[Na+]
solvent | 2-propanol | 12 mL | CC(C)O | C3H8O
solvent | water | 2 mL | O | H2O
product | 3-[3-(2-Methoxyphenylsulfonyloxy)-5-methylphenoxy]propoxyamine | 79 mg, 95% | COC1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCCON)C=C(C1)C | C17H21NO6S
